** GENERATED by `analog-db export-raw` — DO NOT EDIT.
** circuit=amp_031_srmc_core_cmfb  class=amplifier  pdk=tsmc-n65  testbench=ac_open_loop  corner=tt
** Self-contained deck: testbench + bound params + lowered DUT (.subckt amp_031_srmc_core_cmfb).
** PDK corner libs resolve by BARE NAME on the image's ngspice sourcepath — run in a
** PDK-enabled env (the base image / api container), NOT a bare host:
**   docker run --rm -i spicexplorer-spice-base:local \
**     bash -lc 'd=$(mktemp -d) && cat > $d/c.spice && cd $d && ngspice -b c.spice' < raw/amp_031_srmc_core_cmfb/tsmc-n65/ac_open_loop.spice
*----------------------------------------------------------*
** params: 22 free + 6 frozen knobs (sizing.yaml) · 17 tied · 0 ratio-derived (abstract/params.yaml) · 3 testbench params
** AUTHORED TEMPLATE — amplifier/ac_open_loop_diff (fully-differential open-loop AC).
** Open-loop DIFFERENTIAL gain/phase of a self-biased FD OTA (internal current reference,
** no external ibias port; e.g. amp_020_two_stage_miller_cmfb). Differential input driven directly
** — no AnalogGym-style bias-wrap needed: unlike a single-ended amp with no output
** feedback of any kind, a genuinely SYMMETRIC differential topology driven by MATCHED
** (vinp=vinn=VCM) inputs gives a well-defined output OFFSET regardless of open-loop gain
** — both branches move together, not apart, so there is nothing for the gain to amplify
** into a rail. (The output COMMON MODE still has to be centered by sizing — see
** pdk/<pdk>/sizing.yaml — but that's a device-sizing concern, not a testbench one.)
**
** Required bindings: DUT (subckt name), PORT_LINE (instance port order = circuit.yaml
**   ports: vinp vinn voutp voutn vdd vss), VDD VCM CL, FSTART FSTOP PPD,
**   PDK_INCLUDE (.lib/.include lines for the bound PDK+corner).
*----------------------------------------------------------*
.lib tsmc_n65_models.scs tt
.temp 27

.param VDD=1.2
.param VCM=0.5
.param CL=10p

Vdd  vdd 0 dc {VDD}
Vss  vss 0 dc 0
CLoadp voutp 0 {CL}
CLoadn voutn 0 {CL}

* DUT instance (port order = circuit.yaml ports)
XDUT vinp vinn voutp voutn vdd vss amp_031_srmc_core_cmfb

* --- input drive (AC open loop, differential) ---
Vcm  vcm 0 dc {VCM}
Vinp vinp vcm dc 0 ac 0.5
Vinn vinn vcm dc 0 ac -0.5

.control
  set filetype=ascii
  ac dec 101 10 1G
  let vodm = v(voutp) - v(voutn)
  * db()/cph() must be precomputed as their own vectors before use in .meas FIND/WHEN —
  * ngspice's vdb()/cph() shorthand only resolves against real circuit nodes, not a
  * `let`-derived vector like vodm, so a bare `FIND db(vodm)` fails to resolve.
  let dbvodm = db(vodm)
  meas ac dcgain  FIND dbvodm  AT=10
  meas ac ugf     WHEN dbvodm=0 FALL=1
  * cph() = continuous (unwrapped) phase — vp() wraps at +/-180 and corrupts PM for
  * multi-pole phase trajectories; normalize to the DC phase so PM = 180 - total phase lag.
  let phc = cph(vodm)*180/3.14159265
  let ph = 180 + phc - phc[0]
  meas ac pm      FIND ph WHEN dbvodm=0 FALL=1
  write
  quit
.endc
.param x_dut_xm3_w=0.12u
.param x_dut_xm3_l=0.06u
.param x_dut_xm6_w=0.12u
.param x_dut_xm6_l=0.06u
.param x_dut_xm5_w=0.12u
.param x_dut_xm5_l=0.06u
.param x_dut_xm8_w=0.12u
.param x_dut_xm8_l=0.06u
.param x_dut_xm1_w=0.12u
.param x_dut_xm1_l=0.06u
.param x_dut_xm2_w=0.12u
.param x_dut_xm2_l=0.06u
.param x_dut_c1_value=5.825188706426775e-13
.param x_dut_r1_value=2102.5223381221017
.param x_dut_rm1p_value=1Meg
.param gm_val=100u
.param rout_val=10Meg
.param rin_val=1.0e12
.param cout_val=100f
.param cin_val=10f
.param vb2=0.7002027602191484
.param vref_cm=0.5
.param x_dut_xm1_m=1
.param x_dut_xm2_m=1
.param x_dut_xm3_m=1
.param x_dut_xm5_m=1
.param x_dut_xm6_m=1
.param x_dut_xm8_m=1
* ---- GENERATED parameter ties (abstract/params.yaml groups/ratios) ----
* Each tied symbol is defined exactly once, by its line below; rewrite that
* .param to untie just that symbol (untying = shadowing, plan D-3).
.param x_dut_xm4_w = {x_dut_xm3_w}
.param x_dut_xm4_l = {x_dut_xm3_l}
.param x_dut_xm4_m = {x_dut_xm3_m}
.param x_dut_xm7_w = {x_dut_xm6_w}
.param x_dut_xm7_l = {x_dut_xm6_l}
.param x_dut_xm7_m = {x_dut_xm6_m}
.param x_dut_xm9_w = {x_dut_xm1_w}
.param x_dut_xm9_l = {x_dut_xm1_l}
.param x_dut_xm9_m = {x_dut_xm1_m}
.param x_dut_xm10_w = {x_dut_xm2_w}
.param x_dut_xm10_l = {x_dut_xm2_l}
.param x_dut_xm10_m = {x_dut_xm2_m}
.param x_dut_c2_value = {x_dut_c1_value}
.param x_dut_r2_value = {x_dut_r1_value}
.param x_dut_rm1n_value = {x_dut_rm1p_value}
.param x_dut_rm2p_value = {x_dut_rm1p_value}
.param x_dut_rm2n_value = {x_dut_rm1p_value}
.subckt amp_031_srmc_core_cmfb vinp vinn voutp voutn vdd vss
C1 vo1n zc_p 'x_dut_c1_value'
C2 vo1p zc_n 'x_dut_c2_value'
CIN1 cm1_det vref_cm1 'cin_val'
CIN2 cm2_det vref_cm2 'cin_val'
COUT1 vss vcmfb1 'cout_val'
COUT2 vss vcmfb2 'cout_val'
GM1 vss vcmfb1 cm1_det vref_cm1 {gm_val}
GM2 vss vcmfb2 cm2_det vref_cm2 {gm_val}
R1 zc_p voutp 'x_dut_r1_value'
R2 zc_n voutn 'x_dut_r2_value'
RIN1 cm1_det vref_cm1 'rin_val'
RIN2 cm2_det vref_cm2 'rin_val'
RM1N vo1n cm1_det 'x_dut_rm1n_value'
RM1P cm1_det vo1p 'x_dut_rm1p_value'
RM2N voutn cm2_det 'x_dut_rm2n_value'
RM2P cm2_det voutp 'x_dut_rm2p_value'
ROUT1 vss vcmfb1 'rout_val'
ROUT2 vss vcmfb2 'rout_val'
VB2 vb2 vss dc {vb2}
VREF1 vref_cm1 vss dc {vref_cm}
VREF2 vref_cm2 vss dc {vref_cm}
XM1 voutp vo1n vss vss nch_lvt l=x_dut_xm1_l m=x_dut_xm1_m w=x_dut_xm1_w
XM10 voutn vcmfb2 vdd vdd pch_lvt l=x_dut_xm10_l m=x_dut_xm10_m w=x_dut_xm10_w
XM2 voutp vcmfb2 vdd vdd pch_lvt l=x_dut_xm2_l m=x_dut_xm2_m w=x_dut_xm2_w
XM3 vo1n vinp ntail vss nch_lvt l=x_dut_xm3_l m=x_dut_xm3_m w=x_dut_xm3_w
XM4 vo1p vinn ntail vss nch_lvt l=x_dut_xm4_l m=x_dut_xm4_m w=x_dut_xm4_w
XM5 ntail vb2 vss vss nch_lvt l=x_dut_xm5_l m=x_dut_xm5_m w=x_dut_xm5_w
XM6 vo1p vinn ptail vdd pch_lvt l=x_dut_xm6_l m=x_dut_xm6_m w=x_dut_xm6_w
XM7 vo1n vinp ptail vdd pch_lvt l=x_dut_xm7_l m=x_dut_xm7_m w=x_dut_xm7_w
XM8 ptail vcmfb1 vdd vdd pch_lvt l=x_dut_xm8_l m=x_dut_xm8_m w=x_dut_xm8_w
XM9 voutn vo1p vss vss nch_lvt l=x_dut_xm9_l m=x_dut_xm9_m w=x_dut_xm9_w
.ends
.end
